* RQ5E050AT PMOSFET model
* Model Generated by ROHM
* All Rights Reserved
* Commercial Use or
* Resale Restricted
* Date: 2018/06/11
******************D G S
.SUBCKT RQ5E050AT 1 2 3
M1   11 22 3 3 MOS_P
D1         1 3 DDS
R1        1 11 RTH 7.7m
D2       11 22 DDG
R2        2 22 10.8
.MODEL MOS_P PMOS
+ LEVEL=3
+ L=2.0000E-6
+ W=1
+ KP=74.485E-6
+ RS=10.000E-3
+ RD=0
+ VTO=-2.23122
+ RDS=30.000E6
+ TOX=2.0000E-6
+ CGSO=810p
+ CGDO=57p
+ CBD=0
+ RG=0
+ N=2
+ RB=1.0000E-3
+ GAMMA=0.4
+ ETA=0.7000E-3
+ KAPPA=0
+ UO=300
+ NFS=18G
.MODEL DDS D
+ IS=2.8714E-12
+ N=1.0412
+ RS=1.0000E-6
+ IKF=.63992
+ CJO=214.65E-12
+ M=.52962
+ VJ=.51924
+ BV=30
+ TT=16n
.MODEL DDG D
+ CJO=320E-12
+ M=1
+ VJ=3.5
+ N=10000
+ FC=0.01
+ T_ABS=25
.MODEL RTH RES
+ TC1=0.0095
+ TC2=0.000009
.ENDS RQ5E050AT